US05561126
(R)-3-(3,4-Dimethoxybenzyloxy)-1,2-propandiol (compound17, R2 =OCH2C6H3 (OCH3)2)
To the suspension of Sodium hydride (60% oil dispersion, 4.85 g) in dry Dimethyl sulfoxide (100 ml), solution of (R)-(-)-2,2-Dimethyl-1,3-dioxolane-4-methanol (10.68 g) in dry Tetrahydrofuran (30 ml) was added dropwise under Nitrogen atmosphere at room temperature. After evolution of Hydrogen stopped, solution of 3.4-Dimethoxybenzyl chloride (16.42 g) in dry Dimethyl sulfoxide (30 ml) was added dropwise under the same condition. After 10 hrs of stirring, the reaction mixture was diluted with Diethyl ether, washed with water, followed by brine and then dried over Magnesium sulfate, then 1N-Hydrochloric acid (50 ml) and Tetrahydrofuran (100 ml) was added to the residue and stirred for 6 hrs. The reaction mixture was neutralized with Sodium hydrogen carbonate, extracted with Chloroform and dried over Magnesium sulfate. The title compound was obtained after column purification (Hexane+Ethyl acetate 1:2~Ethyl acetate+Acetone (10:1) as oil. Yield: 18.31 g (94%). NMR (CDCl3): 2.16 (1H, br, s), 3.55 (2H, m), 3.67 (2H, m), 3.88 (3H, s), 3.89 (3H, s), 3.92 (1H, m), 4.49 (2H, s). IR (Neat), cm-1 : 3385, 2910, 1505. [α]25D =+1.0° (C=2.0, Chloroform).

reactant | Sodium hydride | 4.85 g | [H-].[Na+]
reactant | (R)-(-)-2,2-Dimethyl-1,3-dioxolane-4-methanol | 10.68 g | CC1(OC[C@H](O1)CO)C | C6H12O3
reactant | Hydrogen | [H][H] | H2
reactant | 3.4-Dimethoxybenzyl chloride | 16.42 g | COC=1C=C(CCl)C=CC1OC | C9H11ClO2
solvent | Dimethyl sulfoxide | 100 ml | CS(=O)C | C2H6OS
solvent | Tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | Dimethyl sulfoxide | 30 ml | CS(=O)C | C2H6OS
solvent | Diethyl ether | C(C)OCC | C4H10O
product | (R)-3-(3,4-Dimethoxybenzyloxy)-1,2-propandiol | COC=1C=C(COC[C@@H](CO)O)C=CC1OC | C12H18O5
